US05506228
A suspension of 31.7 g (0.139 mol) of 1-chloro-1-[(4-methoxyphenyl)hydrazono]-2-propanone in 400 ml of ethanol was treated with 23.4 g (0.161 mole) of 4-chlorothiophenol followed by 23.4 ml of triethylamine. The suspension was heated at reflux for 2 hours and cooled. The resultant suspension was filtered and the precipitate was washed with 1 portion of cold ethanol. The solids were dried in vacuo to yield 35.77 g of 1-[(4-chlorophenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone, mp 111.5°-113.5° C.

reactant | 1-chloro-1-[(4-methoxyphenyl)hydrazono]-2-propanone | 0.139 mol, 31.7 g | ClC(C(C)=O)=NNC1=CC=C(C=C1)OC | C10H11ClN2O2
reactant | 4-chlorothiophenol | 0.161 mole, 23.4 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | triethylamine | 23.4 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 1-[(4-chlorophenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone | 35.77 g | ClC1=CC=C(C=C1)SC(C(C)=O)=NNC1=CC=C(C=C1)OC | C16H15ClN2O2S
